US07049472B2
A solution of butyl glycidyl ether (2.91 g, 22.39 mmol) in isopropanol (5 mL) and H2O (1 mL) was added to sodium bisulfide (0.628 g, 11.20 mmol) under nitrogen in a 100 mL 3-neck round bottom flask equipped with a N2 inlet, a rubber septum, glass stopper and a magnetic stir bar. The mixture was heated at 90° C. and monitored for completion by gas chromatography/mass spectrometry for disappearance of starting materials and formation of the product. After 3 h, the reaction was judged to be complete. The mixture was cooled to ambient temperature and treated with saturated NH4Cl (5.0 mL) and extracted into ethyl acetate (50 mL). The solvent was dried (MgSO4), filtered, and evaporated in-vacuo to give the product, 1,1′-thiobis(3-butoxypropan-2-ol), which was identified by mass spectrometry as well as 1H and 13C NMR.

reactant | butyl glycidyl ether | 22.39 mmol, 2.91 g | C(C1CO1)OCCCC | C7H14O2
reactant | sodium bisulfide | 11.20 mmol, 0.628 g | [SH-].[Na+]
reactant | NH4Cl | 5.0 mL | [NH4+].[Cl-]
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | H2O | 1 mL | O | H2O
product | 1,1′-thiobis(3-butoxypropan-2-ol) | S(CC(COCCCC)O)CC(COCCCC)O | C14H30O4S
